US07030240B2
N-(1-(1-(2,4,6-trifluorophenyl)ethyl)piperidin-4-yl)-6-isobutylthieno[2,3-d]pyrimidin-4-amine
The title compound was prepared (110 mg, 55%) from 6-isobutyl-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine(130 mg, 0.45 m. mol) and 1-(2,4,6-trifluorophenyl)ethyl methanesulfonate (228 mg, 0.9 mmol) by following the general procedure described for Preparation 12. 1H NMR (400 MHz, CDCl3):δ 8.40 (s, 1H), 6.75 (s, 1H), 6.65 (m, 2H), 4.95 (d, 1H), 4.15 9q, 1H), 4.05 (m, 1H), 3.00 (m, 2H), 2.70 (d, 2H), 2.20 (m, 1H), 2.10 (m, 2H), 1.90 (m, 1H), 1.55 (d, 3H), 1.25–1.65 (m, 2H), 0.95 (d, 6H). MS (ESI) m/z: Calculated: 448.55; Observed: 449.2 (M++1).

reactant | 6-isobutyl-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine | 130 mg | C(C(C)C)C1=CC2=C(N=CN=C2NC2CCNCC2)S1 | C15H22N4S
reactant | 1-(2,4,6-trifluorophenyl)ethyl methanesulfonate | 0.9 mmol, 228 mg | CS(=O)(=O)OC(C)C1=C(C=C(C=C1F)F)F | C9H9F3O3S
product | N-(1-(1-(2,4,6-trifluorophenyl)ethyl)piperidin-4-yl)-6-isobutylthieno[2,3-d]pyrimidin-4-amine | FC1=C(C(=CC(=C1)F)F)C(C)N1CCC(CC1)NC=1C2=C(N=CN1)SC(=C2)CC(C)C | C23H27F3N4S
